US07576215B2
3-{[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]METHYL}PHENOL
[3-Benzyl-8-(trifluoromethyl)quinolin-4-yl](3-methoxyphenyl)acetonitrile (5.14 g, 11.88 mmol) in 48% HBr (75 mL) is heated at 90° C. for 65 h. Cooled reaction is poured into concentrated ammonium hydroxide (50 mL) diluted with water and ice. The mixture is extracted with ethyl acetate and the combined extracts are dried (MgSO4) and concentrated. The residue is purified via column chromatography using 15:85 ethyl acetate:hexane as the eluent to afford the title compound as a yellow powder (3.91 g, 84%). HRMS: calcd for C24H18F3NO+H+, 394.14132; found (ESI, [M+H]+), 394.1404.

reactant | [3-Benzyl-8-(trifluoromethyl)quinolin-4-yl](3-methoxyphenyl)acetonitrile | 11.88 mmol, 5.14 g | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C(C#N)C1=CC(=CC=C1)OC)C(F)(F)F | C26H19F3N2O
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
solvent | HBr | 75 mL | Br | BrH
solvent | water | O | H2O
product | 3-{[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]METHYL}PHENOL | 3.91 g, 84% | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1CC=1C=C(C=CC1)O)C(F)(F)F | C24H18F3NO
